US08975282B2
Step 4) N-(4-((2-aminopyridin-4-yl)oxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide
To a solution of 4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)phenoxy)picolinamid (1.773 g, 3.998 mmol) in EtOAc/MeCN/H2O (20 mL/20 mL/10 mL) was added iodobenzene diacetate (1.6 g, 4.96 mmol) at 0° C. The reaction was stirred at rt overnight, then concentrated in vacuo and diluted with EtOAc (100 mL). The mixture was washed with saturated aq. NaHCO3 (60 mL), dried over Na2SO4, and concentrated in vacuo. The residue was purified by a silica gel column chromatography (DCM/MeOH (v/v)=30/1) to give the title compound as a yellow solid (799 mg, 48%).

reactant | 4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)phenoxy)picolinamid | 3.998 mmol, 1.773 g | CN1N(C(C(=C1C)C(=O)NC1=CC=C(OC2=CC(=NC=C2)C(=O)N)C=C1)=O)C1=CC=CC=C1 | C24H21N5O4
reactant | iodobenzene diacetate | 4.96 mmol, 1.6 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | EtOAc MeCN H2O | 20 mL | CCOC(=O)C.CC#N.O
product | N-(4-((2-aminopyridin-4-yl)oxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 799 mg, 48% | NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C23H21N5O3
